US04957912
A mixture of 15.6 g. (0.1 mole) of 1-acetoxy-5-hexen-2-one, 18.6 g. (0.3 mole) of ethylene glycol in 250 ml. of benzene containing 1.56 g. of p-toluene sulfonic acid monohydrate is heated to reflux using a Dean-Stark water separator. After 2 hours, the reaction mixture is shaken well with 250 ml. of cold water. The aqueous layer is washed with 3×25 ml. of ether. The combined organic layers are dried over anhydrous magnesium sulfate. Evaporation of the solvent gives 2-acetoxymethyl-2-(3-buten-1-yl)-1,3-dioxolane in 90% yield as a light brown oil.

reactant | 1-acetoxy-5-hexen-2-one | 0.1 mole | C(C)(=O)OCC(CCC=C)=O | C8H12O3
reactant | ethylene glycol | 0.3 mole | C(CO)O | C2H6O2
reactant | benzene | 1.56 g | C1=CC=CC=C1 | C6H6
reactant | p-toluene sulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | O | H2O
product | 2-acetoxymethyl-2-(3-buten-1-yl)-1,3-dioxolane | 90% yield | C(C)(=O)OCC1(OCCO1)CCC=C | C10H16O4
